US07745438B2
1-benzyloxy-3-fluoro-5-((E)-2-nitro-vinyl)-benzene
Heat 3-benzyloxy-5-fluoro-benzaldehyde (3.75 g, 16.29 mmol), nitromethane (4.08 g, 66.79 mmol), and ammonium acetate (3.47 g, 44.96 mmol) in acetic acid (54 mL) in 125° C. oil bath under nitrogen for 4 hours. Cool to room temperature and pour into ice/water. Extract with hexanes/ethyl acetate. Dry (magnesium sulfate), filter and concentrate. Purify on 120 g silica gel eluting with 100:0 to 80:20 hexanes:ethyl acetate to give 3.05 g (68.5%) of the desired compound as a yellow oil.

reactant | 3-benzyloxy-5-fluoro-benzaldehyde | 16.29 mmol, 3.75 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1)F | C14H11FO2
reactant | nitromethane | 66.79 mmol, 4.08 g | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 44.96 mmol, 3.47 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 54 mL | C(C)(=O)O | C2H4O2
product | 1-benzyloxy-3-fluoro-5-((E)-2-nitro-vinyl)-benzene | 3.05 g, 68.5% | C(C1=CC=CC=C1)OC1=CC(=CC(=C1)\C=C\[N+](=O)[O-])F | C15H12FNO3
